Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Augmentin / tramadol
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ w/ h/o HTN, HLD, ?___ p/w sudden onset 
confusion and is admitted to MICU for further AMS w/u. Pt's 
daughter and son-in-law are present and provide most of the 
history. He started having nausea x1 day, poor appetite, and 
feeling generally unwell. He did not take his medications x1 
day. No po intake for the past 24 hrs. Family visited the 
assisted care facility and noticed that he was disoriented and 
had word fining difficulties and brought him to the ED. 

 

In the ED, initial vs were:  97.9 80 ___. Labs were 
notable for normal WBC, Cr 1.0 ( at baseline), HCT of 38 
(baseline), trop of 0.02(baseline), Mg 1.4, P 2.2, Na 148. CXR 
unremarkable. UA was unremarkable. Patinet was evaluated by 
neurology who did not feel he was having a stroke and 
recommended CTA which showed 30% narrowing of the left carotid. 
Head CT was negative. He was given 20 mg of IV labetalol and 
zofran than started on a nicardipine drip.  BP improved to the 
160s systolic.  He was admitted to the MICU for close monitor of 
his blood pressure. Vital on transfer were  74 169/73 16 97% RA. 
   

 

Of note, he was admitted in ___ for hypertensive emergency 
(208/91) and peripheral vertigo. During the admission, ___, 
MRI, CTA were negative for stroke or vasculopathy. He was also 
admitted in ___ with similar symptoms and was found to have 
AMS d/t medications (tramadol). 

 

On the floor, VS are 97.7 79 170/64 91 32 95% on RA. He is alert 
and oriented x1 (person). He has word finding difficulty and is 
disoriented per family. He is in charge of his own medications 
and did not take them yesterday because of nausea. He was not 
feeling well over the past day or two with nausea and poor 
appetite. Last time he ate was over a day ago. He had frontal 
headache yesterday. Currently, he still feels "out of it". He 
can think of words but cannot express them. No headache, VS, 
diplopia, decreased hearing, vertigo or tinnitis. He had 
tingling in Lt leg earlier today. 

 
Past Medical History:
HTN
HLD
Anemia
B12 deficiency
GERD
Degenerative disc disease s/p multiple spine surgeries
h/o L rotator cuff tear

 
Social History:
___
Family History:
Father passed from liver cancer, mother passed from kidney 
disease unk origin, 4 children and 1 brother all healthy

 
Physical Exam:
Admission physical exam:
Vitals:  99.7 131 178/76 21 96%.
General: Somnolent,  at times agitated
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Poor respiratory effort
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops 
Abdomen: firm, non-tender, distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

Discharge:
 AF 177/77 (128-198/64-77) HR 66 18 98%RA  
General: A+O x3, no acute distress, converses easily  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, right calf larger than left calf but this is chronic per 
the pt, no palpable cords bilaterally over calves  
Neuro: CN ___ intact. No dysmetria. Moves all extremities 
without trouble. Linear speech. Occasional word finding 
difficulties.  

 
Pertinent Results:
Initial labs:

___ 04:15PM   WBC-4.9 RBC-3.93* HGB-12.8* HCT-38.2* MCV-97 
MCH-32.6* MCHC-33.5 RDW-13.1
___ 04:15PM   NEUTS-70.7* ___ MONOS-6.7 EOS-0.7 
BASOS-0.6
___ 04:15PM   PLT COUNT-159
___ 04:15PM   ___ PTT-27.6 ___
___ 04:15PM   CALCIUM-9.4 PHOSPHATE-2.2* MAGNESIUM-1.4*
___ 04:15PM   CK-MB-3
___ 04:15PM   cTropnT-0.02*
___ 04:15PM   UREA N-22*
___ 04:15PM   CREAT-1.0
___ 04:36PM   GLUCOSE-108* NA+-148* K+-3.5 CL--104 TCO2-27
___ 05:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:30PM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0

IMAGING: 
___
Head CT
IMPRESSION: No acute intracranial process. If high clinical 
concern for acute ischemia, MRI would be more sensitive. 

___ CTA head/neck
IMPRESSION: 
Unremarkable CTA of the head and neck without evidence of 
significant 
stenosis, aneurysm, pseudoaneurysm, or dissection.   
  
___ MRI Head:
FINDINGS:  Diffusion-weighted images demonstrate no evidence for 
acute 
ischemia.  There are chronic small vessel ischemic changes in 
the white 
matter.  Ventricles are prominent but stable.  Intracranial flow 
voids are maintained.  There is no pathologic enhancement. 
  
IMPRESSION:  No acute infarction.  Stable chronic small vessel 
ischemic 
changes. 

DISCHARGE: 

___ 06:23AM BLOOD WBC-4.8 RBC-3.18* Hgb-10.2* Hct-31.9* 
MCV-101* MCH-32.1* MCHC-31.9 RDW-13.8 Plt ___
___ 06:23AM BLOOD Glucose-107* UreaN-21* Creat-1.1 Na-142 
K-3.9 Cl-111* HCO3-22 AnGap-13
___ 06:23AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.0
___ 07:00AM BLOOD TSH-3.3
 
Brief Hospital Course:
Mr. ___ is an ___ w/ h/o HTN, HLD, ?___ p/w sudden onset 
confusion and found to have hypertensive emergency.

# Acute hypertensive encephalopathy: Had word finding 
difficulty, without other focal findings. Neuro c/s thought 
unlikely to be stroke. Most likely due to hypertensive 
encephalopathy. DDx include hypertensive encephalopathy vs. 
metabolic/toxic vs. PRES vs. CVA vs infection vs. delirium vs. 
medication-induced. Infectious cause less likely given UA and 
CXR negative. TSH normal and RPR negative on last admission. 
NCHCT and CTA not concerning for acute stroke. MRI showed no 
acute hemorrhage or ischemic injury. Since pt has had similar 
presentations in the past (expressive aphasia) and 
confusion/disorientation w/ hypertension and ischemic w/u has 
been negative, this is most likely d/t hypertension as well. 
PRES less likely given headaches are frontal, no VS, no seizure. 
At time of discharge, his mental status improved but he still 
occasionally was confused and forgetful with word finding 
difficulties.

# Hypertensive emergency: BP initially elevated to 220 systolic. 
Treated in the MICU initially with IV labetalol in addition to 
restarting home meds. Most likely d/t poor compliance with 
medications v secondary causes of HTN. When transferred to the 
floor, his home atenolol was replaced with labetalol for better 
blood pressure effect and uptitrated as needed and his 
lisinopril was uptitrated to 40mg from 20mg. His isosorbide 
mononitrate was uptitrated. He was started on nifedipine as 
well. On discharge BPs were 130s-150s. Goal SBP 130-160mmHg. 

# Hyperlipidemia: continued atorvastatin 

# Anemia: H&H at baseline. Most likely d/t vit B12 deficiency. 
continue vit B12. 

# Chronic diastolic CHF: TTE done in ___ did not show any 
sign of CHF. EF>55% with mild MR and mild pulmonary HTN. Based 
on records, Lasix and metolazone are most likely for ___ edema. 
His home diuretics were held on discharge because patient was 
euvolemic during this admission. Also, he had ___ with acute 
rise in creatinine after re-starting his diuretics.

# Shoulder/back pain: History of disc herniation and shoulder 
pain. Patient is treated with Tylenol prn for pain. Narcotics 
were avoided given altered mental status. 

Transitional issues:
- medication compliance
- f/u as outpatient whether to re-start metolazone and 
- Follow urine/plasma metanephrines
- give 20mg PO hydralazine if SBP >180mmHg
- give 20mg IV hydralazine if SBP >200mmHg and notify MD
- uptitrate nifedipine v. isosorbide mononitrate as needed for 
improved BP control. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Lisinopril 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. Meclizine 12.5 mg PO TID 
6. Atenolol 25 mg PO DAILY 
7. Atorvastatin 20 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Metolazone 2.5 mg PO DAILY 
10. Gabapentin 800 mg PO HS 
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
12. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atorvastatin 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Gabapentin 800 mg PO HS 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Lisinopril 40 mg PO DAILY 
9. Labetalol 200 mg PO BID 
10. Labetalol 400 mg PO QHS 
11. NIFEdipine CR 30 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 2 TAB PO BID constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
1. Hypertensive emergency
2. Hypertensive encephalopathy
3. acute kidney injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ for very high blood pressure that 
caused you to become confused. Your blood pressure was 
controlled with medications and your confusion improved as well. 
Please be sure to take all of your prescribed medications every 
day. If you skip your blood pressure medications, you are at 
risk of having very high blood pressures again and even a 
stroke. While you were here, we stopped your diuretics lasix and 
metolazone. You should follow up with your doctor to see if you 
need to re-start these medications.

It will be very important for you to follow up with you primary 
care physician to monitor your blood pressures. 
 
Followup Instructions:
___